US05302720
A mixture of 2-biphenylylcyanamide (3.9 g), 4-piperidone oxime (4.5 g) and ethanol (50 ml) was stirred at ambient temperature for 6 hours and then at 50°-60° C. for 5 hours to give a brown solid which was purified by chromatography on an aluminia column eluted successively with hexane, 1:4, 2:3, 3:2 and 4:1 mixtures of dichloromethane and hexane and the 99:1 mixture of dichloromethane and methanol to yield a solid which was recrystallised from ethyl acetate to give N-(2-biphenylyl)-4-hydroxyiminopiperidine-1-carboxamidine (m.p. 175°-176° C.).

reactant | 2-biphenylylcyanamide | 3.9 g | C1(=C(C=CC=C1)NC#N)C1=CC=CC=C1 | C13H10N2
reactant | 4-piperidone oxime | 4.5 g | N1CCC(CC1)=NO | C5H10N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(2-biphenylyl)-4-hydroxyiminopiperidine-1-carboxamidine | C1(=C(C=CC=C1)NC(=N)N1CCC(CC1)=NO)C1=CC=CC=C1 | C18H20N4O
